US04450164
STEP A: Preparation of 2-amino-3-benzylaminopyridine.
A mixture of 2,3-diaminopyridine (45 g), ethanol (500 ml), triethylamine (42 g) and benzyl bromide (70.5 g) was stirred at room temperature for 3 days. The solvent was evaporated in vacuo and the residue partitioned between chloroform (500 ml) and water (400 ml). The organic layer was eparated, filtered through a silica gel plug and evaporated in vacuo. The residue was triturated with hot chlorobutane to yield a brown powder.

reactant | 2,3-diaminopyridine | 45 g | NC1=NC=CC=C1N | C5H7N3
reactant | ethanol | 500 ml | C(C)O | C2H6O
reactant | benzyl bromide | 70.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | triethylamine | 42 g | C(C)N(CC)CC | C6H15N
product | 2-amino-3-benzylaminopyridine | NC1=NC=CC=C1NCC1=CC=CC=C1 | C12H13N3
